US06762189B1
Preparation of 4-(1H-5-Indazolylamino)-N-methyl-2-methylthio-5-pyrimidine carboxamide
To the solution of methanol with 40% methylamine (30 ml) was added 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidine carboxylic acid ethyl ester (1.5 g) obtained by by preparation example 1, and the solution was reacted at 25-30° C. for 1 hr. The reaction mixture was cooled at 20-25° C., added H2O (90 ml) and stirred for 0.5hr. The reaction mixture was filtered, washed with 25% aqueous methanol solution (10 ml), obtained a solid product. The solid product was dried in vacuo to obtain the desired compound (1.26 g, 88%).

reactant | methanol | CO | CH4O
reactant | methylamine | 30 ml | CN | CH5N
reactant | 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidine carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC=1C=C2C=NNC2=CC1 | C15H15N5O2S
solvent | H2O | 90 ml | O | H2O
product | 4-(1H-5-Indazolylamino)-N-methyl-2-methylthio-5-pyrimidine carboxamide | 1.26 g, 88% | N1N=CC2=CC(=CC=C12)NC1=NC(=NC=C1C(=O)NC)SC | C14H14N6OS
